US06992083B2
2-Chloromethyl-N-[7-(4-fluoro-phenyl)-4-methoxy-benzooxazol-2-yl]-isonicotinamide
From 2-chloromethyl-isonicotinic acid, HATU and N-diethylisopropylamine in THF, then treatment with 7-(4-fluoro-phenyl)-4-methoxy-benzooxazol-2-yl-amine in dioxane and DMF. ES-MS m/e (%): 414 (M{37Cl}+H+, 30), 412 (M{35Cl}+H+, 100).

reactant | 2-chloromethyl-isonicotinic acid | ClCC=1C=C(C(=O)O)C=CN1 | C7H6ClNO2
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 7-(4-fluoro-phenyl)-4-methoxy-benzooxazol-2-yl-amine | FC1=CC=C(C=C1)C1=CC=C(C=2N=C(OC21)N)OC | C14H11FN2O2
solvent | THF | C1CCOC1 | C4H8O
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-Chloromethyl-N-[7-(4-fluoro-phenyl)-4-methoxy-benzooxazol-2-yl]-isonicotinamide | ClCC=1C=C(C(=O)NC=2OC3=C(N2)C(=CC=C3C3=CC=C(C=C3)F)OC)C=CN1 | C21H15ClFN3O3
